US06897231B2
E. 4-[N-(3-(4-pyridyl)-1H-indazol-5-yl)carbamoyl]benzoic acid
The title compound was prepared using methyl 4-[N-(3-(4-pyridyl)-1H-indazol-5-yl)carbamoyl]benzoate (0.129 g, 0.35 mmol) and lithium hydroxide mono hydrate (0.075 g, 1.8 mmol) in tetrahydrofuran (5 mL). The compound was isolated as a beige powder that was washed with small portions of diethyl ether (5 mL). (0.091 g, 70.5% yield) 1H NMR (DMSO-d6) 10.2 (s, 1H), 8.5 (m, 3H), 7.9-7.8 (m, 6H), 7.6 (s, 2H); ES-MS (m/z) 359 [M+1]+.

reactant | methyl 4-[N-(3-(4-pyridyl)-1H-indazol-5-yl)carbamoyl]benzoate | 0.35 mmol, 0.129 g | N1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)NC(=O)C1=CC=C(C(=O)OC)C=C1 | C21H16N4O3
reactant | lithium hydroxide mono hydrate | 1.8 mmol, 0.075 g | O.[OH-].[Li+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-[N-(3-(4-pyridyl)-1H-indazol-5-yl)carbamoyl]benzoic acid | 70.5% yield | N1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)NC(=O)C1=CC=C(C(=O)O)C=C1 | C20H14N4O3
